US04518532
To a solution of 50.3 mg (0.10 mmole) of N-[4-(3-aminopropyl)aminobutyl]-2-(7-guanidino-2-heptenamido)-2-hydroxyethanamide trihydrochloride in 1 ml of anhydrous methanol was added 0.1 ml of 2N hydrogen chloride-methanol. The mixture was stirred overnight at room temperature and the reaction mixture was concentrated under reduced pressure. The residue was purified in a manner similar to that in Example 7 using CM-Sephadex® C-25 (Na-type) and Sephadex® LH-20 to obtain 37.2 mg (72.4% yield) of N-[4-(3-aminopropyl)aminobutyl]-2-(7-guanidino-2-heptenamido)-2-methoxyethanamide trihydrochloride.

reactant | N-[4-(3-aminopropyl)aminobutyl]-2-(7-guanidino-2-heptenamido)-2-hydroxyethanamide trihydrochloride | 0.10 mmole, 50.3 mg | Cl.Cl.Cl.NCCCNCCCCNC(C(O)NC(C=CCCCCNC(=N)N)=O)=O
reactant | hydrogen chloride methanol | 2N, 0.1 ml | Cl.CO
solvent | methanol | 1 ml | CO | CH4O
product | N-[4-(3-aminopropyl)aminobutyl]-2-(7-guanidino-2-heptenamido)-2-methoxyethanamide trihydrochloride | 37.2 mg, 72.4% yield | Cl.Cl.Cl.NCCCNCCCCNC(C(OC)NC(C=CCCCCNC(=N)N)=O)=O | InChI=1S/C18H37N7O3.3ClH/c1-28-17(16(27)23-13-7-6-11-22-12-8-10-19)25-15(26)9-4-2-3-5-14-24-18(20)21;;;/h4,9,17,22H,2-3,5-8,10-14,19H2,1H3,(H,23,27)(H,25,26)(H4,20,21,24);3*1H
